US08076491B2
4-((N-(4-fluorobenzyl)phenylsulfonamido)methyl)-cyclohexanecarboxylic acid
Prepared as in example 5-11 from benzenesulfonyl chloride, 4-(aminomethyl)-cyclohexanecarboxylic acid and 1-(bromomethyl)-4-fluorobenzene. MS (M+H, 406); 1H NMR (400 MHz, DMSO-d6): δ, ppm: 0.77 (m, 2H), 0.94 (m, 2H), 0.98 (m, 2H), 1.50 (m, 2H0, 1.75 (m, 2H), 1.77 (m, 1H), 2.80 (d, 2H), 4.28 (s, 2H), 7.20 (m, 2H), 7.38 (m, 2H), 7.62 (m, 2H), 7.70 (m, 1H), 7.88 (m, 2H), 11.93 (br, s, 1H).

reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 4-(aminomethyl)-cyclohexanecarboxylic acid | NCC1CCC(CC1)C(=O)O | C8H15NO2
reactant | 1-(bromomethyl)-4-fluorobenzene | BrCC1=CC=C(C=C1)F | C7H6BrF
product | 4-((N-(4-fluorobenzyl)phenylsulfonamido)methyl)-cyclohexanecarboxylic acid | FC1=CC=C(CN(S(=O)(=O)C2=CC=CC=C2)CC2CCC(CC2)C(=O)O)C=C1 | C21H24FNO4S
